US07435837B2
(±)-{[7-(2,5-dichlorophenyl)-5-fluoro-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine
The title compound was prepared (0.123 g, 80%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-[7-(2,5-dichlorophenyl)-5-fluoro-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.2 g, 0.43 mmol) and methylamine (0.133 g, 4.3 mmol). mp 166-168° C.

reactant | (±)-[7-(2,5-dichlorophenyl)-5-fluoro-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.43 mmol, 0.2 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=C(C=CC(=C2)Cl)Cl)F | C22H17Cl2FO4S
reactant | methylamine | 4.3 mmol, 0.133 g | CN | CH5N
product | (±)-{[7-(2,5-dichlorophenyl)-5-fluoro-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine | ClC1=C(C=C(C=C1)Cl)C1=CC(=CC=2CC(OC21)CNC)F | C16H14Cl2FNO
